US09029544B2
(S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(3-fluoro-4-(trifluoromethyl)phenyl)methanol
Obtained by starting from (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde and 4-bromo-2-fluoro-benzotrifluoride.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)C=O)I | C21H34INO2Si
reactant | 4-bromo-2-fluoro-benzotrifluoride | BrC1=CC(=C(C=C1)C(F)(F)F)F | C7H3BrF4
product | (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(3-fluoro-4-(trifluoromethyl)phenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@@H](O)C1=CC(=C(C=C1)C(F)(F)F)F)I | C28H38F4INO2Si
